* sky130_fd_sc_hd__inv_1 schematic (standalone)
.subckt sky130_fd_sc_hd__inv_1 A VGND VNB VPB VPWR Y
X0 VGND A Y VNB sky130_fd_pr__nfet_01v8 w=650000u l=150000u
X1 VPWR A Y VPB sky130_fd_pr__pfet_01v8_hvt w=1e+06u l=150000u
.ends
